US04027040
Using the procedure of Examples 1 and 2, 2-methyl-3-(p-fluorobenzoyl)-benzaldehyde and n-propyl-triphenyl phosphonium iodide were reacted to obtain 4-fluoro-3'-(butenyl)-2'-methyl-benzophenone which was hydrogenated to form 4-fluoro-3'-(n-butyl)-2'-methyl-benzophenone in the form of an oil.

reactant | 2-methyl-3-(p-fluorobenzoyl)-benzaldehyde | CC1=C(C=O)C=CC=C1C(C1=CC=C(C=C1)F)=O | C15H11FO2
reactant | n-propyl-triphenyl phosphonium iodide | [I-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-fluoro-3'-(butenyl)-2'-methyl-benzophenone | FC1=CC=C(C(=O)C2=C(C(=CC=C2)C=CCC)C)C=C1 | C18H17FO
